US07132438B2
2-Amino-5-(2′,2′-dimethylpropionyl)benzimidazole: To a flask containing 60 mL H2O was added 11.32 mL of a 5.0 M solution of cyanogen bromide in CH3CN followed by the addition of 10.71 g 4-(2′,2′-dimethylpropionyl)-1,2-aminobenzene (51.5 mmol, prepared above in step (b), 1.0 equiv) in 60 mL EtOH over 30 min via addition funnel. After stirring for 20 h the solution was concentrated under reduced pressure to remove the EtOH. The resulting aqueous solution was washed (2×EtOAc), and the EtOAc fractions were back extracted 2×H2O. The combined aqueous layers were made basic with sat. NaHCO3, and then extracted (3×EtOAc). The organic layer was then washed (1×brine), dried (MgSO4), and concentrated under reduced pressure to give the product benzimidazole as a brown solid (8.59 g, 36.8 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 7.04 (d, J=8.3 Hz, 1 H), 6.79 (d, J=2.2 Hz, 1 H), 6.53 (dd, J=2.2, 8.3 Hz, 1 H), 6.31 (broad s, 2 H), 1.28 (s, 9 H).

reactant | 2-Amino-5-(2′,2′-dimethylpropionyl)benzimidazole | NC=1NC2=C(N1)C=CC(=C2)C(C(C)(C)C)=O | C12H15N3O
reactant | H2O | 60 mL | O | H2O
reactant | cyanogen bromide | N#CBr | CBrN
solvent | CH3CN | CC#N | C2H3N
solvent | EtOH | 60 mL | CCO | C2H6O
product | benzimidazole | 36.8 mmol, 8.59 g | N1=CNC2=C1C=CC=C2 | C7H6N2
